US07700591B2
A solution of crude 5-piperidin-4-ylisoxazol-3-ol hydrochloride (1.77 g, 8.65 mmol) and NaOH (346 mg, 8.65 mmol) in a mixture of water (15 mL) and dioxane (10 mL) was treated dropwise with a solution of di-tert-butyl dicarbonate (3.78 g, 17.3 mmol) in 10 mL of dioxane. The resulting mixture was stirred at rt for 6 h, then was partially concentrated to remove the dioxane. To the resulting mixture was added 1N HCl solution and ether. The ethereal layer was then washed with brine, dried over MgSO4, filtered, and concentrated. A series of purifications were required as follows: MPLC (silica, 75 to 100% ethyl acetate/hexanes stepwise gradient), MPLC (silica, 50% ethyl acetate/hexanes), and finally flash chromatography (silica, 1/30/69 AcOH/ethyl acetate/hexanes). This afforded the desired tert-butyl 4-(3-hydroxyisoxazol-5-yl)piperidine-1-carboxylate. 1H NMR (500 MHz, CDCl3) δ 5.68 (s, 1H), 4.15 (br m, 2H), 2.88 (br m, 2H), 2.83 (tt, J=11, 3.5 Hz, 1H), 1.99 (m, 2H), 1.62 (dq, J=4.0, 13.5 Hz, 2H), 1.49 (s, 9H).

reactant | 5-piperidin-4-ylisoxazol-3-ol hydrochloride | 8.65 mmol, 1.77 g | Cl.N1CCC(CC1)C1=CC(=NO1)O
reactant | NaOH | 8.65 mmol, 346 mg | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 17.3 mmol, 3.78 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 15 mL | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(3-hydroxyisoxazol-5-yl)piperidine-1-carboxylate | OC1=NOC(=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H20N2O4
